US09374998B2
To a suspension of 300 mg (0.68 mmol) of N-(2-bromo-5-fluorobenzyl)-5-chloro-N-cyclopropyl-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxamide in a 10/1 mixture of toluene/water degassed with argon, are successively added 190 mg (1.50 mmol) of cyclohex-1-en-ylboronic acid, 38 mg (0.137 mmol) of tricyclohexylphosphine, 15 mg (0.069 mmol) of palladium (II) acetate and 437 mg (2.06 mmol) of tri-potassium phosphate. The mixture is heated at 100° C. for 1 hour. The reaction mixture is cooled to ambient temperature. 1 mL of water is added to the reaction mixture and the organic phase is filtered over a cake of diatomaceous earth. The cake is washed twice by dichloromethane and the combined organic phases are concentrated under vacuum to give 516 mg of crude material. A purification by column chromatography on silica gel (gradient heptane/ethyl acetate) yields 154 mg (49% yield) of 5-chloro-N-[2-(cyclohex-1-en-1-yl)-5-fluorobenzyl]-N-cyclopropyl-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxamide: (M+H)=438.

reactant | N-(2-bromo-5-fluorobenzyl)-5-chloro-N-cyclopropyl-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxamide | 0.68 mmol, 300 mg | BrC1=C(CN(C(=O)C=2C(=NN(C2Cl)C)C(F)F)C2CC2)C=C(C=C1)F | C16H14BrClF3N3O
reactant | cyclohex-1-en-ylboronic acid | 1.50 mmol, 190 mg | C1(=CCCCC1)B(O)O | C6H11BO2
reactant | tricyclohexylphosphine | 0.137 mmol, 38 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | tri-potassium phosphate | 2.06 mmol, 437 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium (II) acetate | 0.069 mmol, 15 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 1 mL | O | H2O
solvent | toluene water | C1(=CC=CC=C1)C.O
product | 5-chloro-N-[2-(cyclohex-1-en-1-yl)-5-fluorobenzyl]-N-cyclopropyl-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxamide | 154 mg, 49% yield | ClC1=C(C(=NN1C)C(F)F)C(=O)N(C1CC1)CC1=C(C=CC(=C1)F)C1=CCCCC1 | C22H23ClF3N3O
